US06150373
A stirred solution, cooled in ice, of 0.7 ml (1.3 mmol) of phosgene (20% in toluene) in 5 ml of tetrahydrofuran was treated dropwise with a solution of 210 mg (0.71 mmol) of 5-(2,6-difluorophenyl)aminomethyl-4-methylamino-2-methylthiopyrimidine and 0.2 ml (1.4 mmol) of triethylamine in 5 ml of tetrahydrofuran. The mixture was stirred for 1 hour. To the mixture were added 20 ml of tetrahydrofuran and 20 ml of saturated aqueous ammonium chloride solution and the phases were separated. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 200 mg (87%) of 3-(2,6-difluorophenyl)-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid. [Mass spectrum (ESI) MH+ =323].

reactant | phosgene | 1.3 mmol, 0.7 ml | C(=O)(Cl)Cl | CCl2O
reactant | 5-(2,6-difluorophenyl)aminomethyl-4-methylamino-2-methylthiopyrimidine | 0.71 mmol, 210 mg | FC1=C(C(=CC=C1)F)NCC=1C(=NC(=NC1)SC)NC | C13H14F2N4S
reactant | triethylamine | 1.4 mmol, 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3-(2,6-difluorophenyl)-7-methylthio-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 200 mg, 87% | FC1=C(C(=CC=C1)F)N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C14H12F2N4OS
